* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.12505785676995712
Fd1_1 0 s1 V1 -6.252892838497857
Gr1_1_1 0 s1 x1_a1 0 21336704178977.996
Gr2_re_1_1 0 s1 x2_re_a1 0 -6918478771.478005
Gr2_im_1_1 0 s1 x2_im_a1 0 -11780634313.364721
Gr3_re_1_1 0 s1 x3_re_a1 0 -26182151642.381218
Gr3_im_1_1 0 s1 x3_im_a1 0 7088351159.660755
Gr4_re_1_1 0 s1 x4_re_a1 0 473900691626.11456
Gr4_im_1_1 0 s1 x4_im_a1 0 -59168977244.15502
Gr5_re_1_1 0 s1 x5_re_a1 0 -524682627934.8486
Gr5_im_1_1 0 s1 x5_im_a1 0 54427985710.49761
Gd1_2 0 s1 p2 0 -0.0009817144166136263
Fd1_2 0 s1 V2 -0.049085720830681315
Gr1_1_2 0 s1 x1_a2 0 167492529107.4525
Gr2_re_1_2 0 s1 x2_re_a2 0 -36123048.57947756
Gr2_im_1_2 0 s1 x2_im_a2 0 -91394768.01872455
Gr3_re_1_2 0 s1 x3_re_a2 0 -234901991.3734441
Gr3_im_1_2 0 s1 x3_im_a2 0 61705974.71922471
Gr4_re_1_2 0 s1 x4_re_a2 0 4321476362.566379
Gr4_im_1_2 0 s1 x4_im_a2 0 -505568302.5719962
Gr5_re_1_2 0 s1 x5_re_a2 0 -4707766869.405647
Gr5_im_1_2 0 s1 x5_im_a2 0 459238227.92257595
Gd1_3 0 s1 p3 0 -3.9027143846343813e-07
Fd1_3 0 s1 V3 -1.9513571923171905e-05
Gr1_1_3 0 s1 x1_a3 0 66543983.99487453
Gr2_re_1_3 0 s1 x2_re_a3 0 -1022.2608500783347
Gr2_im_1_3 0 s1 x2_im_a3 0 -32791.289768239636
Gr3_re_1_3 0 s1 x3_re_a3 0 -98950.17347115627
Gr3_im_1_3 0 s1 x3_im_a3 0 25884.78184313977
Gr4_re_1_3 0 s1 x4_re_a3 0 1999146.1332463156
Gr4_im_1_3 0 s1 x4_im_a3 0 -216896.59146172588
Gr5_re_1_3 0 s1 x5_re_a3 0 -2139854.9073690446
Gr5_im_1_3 0 s1 x5_im_a3 0 194831.10787337786
Gd1_4 0 s1 p4 0 7.971564550244898e-07
Fd1_4 0 s1 V4 3.98578227512245e-05
Gr1_1_4 0 s1 x1_a4 0 -136042070.91438183
Gr2_re_1_4 0 s1 x2_re_a4 0 61885.84546248181
Gr2_im_1_4 0 s1 x2_im_a4 0 78481.08390946082
Gr3_re_1_4 0 s1 x3_re_a4 0 152023.54009600918
Gr3_im_1_4 0 s1 x3_im_a4 0 -41904.63593859949
Gr4_re_1_4 0 s1 x4_re_a4 0 -2569751.3082384216
Gr4_im_1_4 0 s1 x4_im_a4 0 348928.43234029843
Gr5_re_1_4 0 s1 x5_re_a4 0 2908383.7914808462
Gr5_im_1_4 0 s1 x5_im_a4 0 -325013.83445597586
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 8.384168007745972e-14
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.795854313103519e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 252703748087.71417
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -252703748087.71417
Rp2_im_im_a1 0 x2_im_a1 5.795854313103519e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.1059586861019216e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 98262545737.14738
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -98262545737.14738
Rp3_im_im_a1 0 x3_im_a1 1.1059586861019216e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 6.710404494664881e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 129275079504.81181
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -129275079504.81181
Rp4_im_im_a1 0 x4_im_a1 6.710404494664881e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 6.940312063940074e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 125884516303.93338
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -125884516303.93338
Rp5_im_im_a1 0 x5_im_a1 6.940312063940074e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0009725039433501289
Fd2_1 0 s2 V1 -0.04862519716750645
Gr1_2_1 0 s2 x1_a1 0 165921087619.57837
Gr2_re_2_1 0 s2 x2_re_a1 0 -35615295.77571156
Gr2_im_2_1 0 s2 x2_im_a1 0 -90527241.84258941
Gr3_re_2_1 0 s2 x3_re_a1 0 -232970592.55724815
Gr3_im_2_1 0 s2 x3_im_a1 0 61183309.225902185
Gr4_re_2_1 0 s2 x4_re_a1 0 4286515699.9174767
Gr4_im_2_1 0 s2 x4_im_a1 0 -501206635.2927341
Gr5_re_2_1 0 s2 x5_re_a1 0 -4669067586.831146
Gr5_im_2_1 0 s2 x5_im_a1 0 455226646.79068846
Gd2_2 0 s2 p2 0 -0.12770170395063135
Fd2_2 0 s2 V2 -6.385085197531567
Gr1_2_2 0 s2 x1_a2 0 21787776880640.332
Gr2_re_2_2 0 s2 x2_re_a2 0 -7015536170.994221
Gr2_im_2_2 0 s2 x2_im_a2 0 -12026754634.71603
Gr3_re_2_2 0 s2 x3_re_a2 0 -26815144261.01508
Gr3_im_2_2 0 s2 x3_im_a2 0 7254480222.877634
Gr4_re_2_2 0 s2 x4_re_a2 0 485546260749.6193
Gr4_im_2_2 0 s2 x4_im_a2 0 -60531778813.34877
Gr5_re_2_2 0 s2 x5_re_a2 0 -537368343131.65735
Gr5_im_2_2 0 s2 x5_im_a2 0 55666059092.11501
Gd2_3 0 s2 p3 0 -7.678555314578643e-07
Fd2_3 0 s2 V3 -3.839277657289322e-05
Gr1_2_3 0 s2 x1_a3 0 130975810.32498915
Gr2_re_2_3 0 s2 x2_re_a3 0 -26563.323763002372
Gr2_im_2_3 0 s2 x2_im_a3 0 -69324.82991307849
Gr3_re_2_3 0 s2 x3_re_a3 0 -174469.500711958
Gr3_im_2_3 0 s2 x3_im_a3 0 46474.9916061762
Gr4_re_2_3 0 s2 x4_re_a3 0 3316086.9500070177
Gr4_im_2_3 0 s2 x4_im_a3 0 -388785.56522551714
Gr5_re_2_3 0 s2 x5_re_a3 0 -3614244.2986273556
Gr5_im_2_3 0 s2 x5_im_a3 0 354019.9258659323
Gd2_4 0 s2 p4 0 -2.3065047002909134e-06
Fd2_4 0 s2 V4 -0.00011532523501454568
Gr1_2_4 0 s2 x1_a4 0 393488597.8419118
Gr2_re_2_4 0 s2 x2_re_a4 0 -109508.73349128697
Gr2_im_2_4 0 s2 x2_im_a4 0 -213913.1148401461
Gr3_re_2_4 0 s2 x3_re_a4 0 -498538.10613936366
Gr3_im_2_4 0 s2 x3_im_a4 0 134116.1588822969
Gr4_re_2_4 0 s2 x4_re_a4 0 9204221.01132139
Gr4_im_2_4 0 s2 x4_im_a4 0 -1120739.1499485518
Gr5_re_2_4 0 s2 x5_re_a4 0 -10125707.337142862
Gr5_im_2_4 0 s2 x5_im_a4 0 1026849.8169096665
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 8.384168007745972e-14
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.795854313103519e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 252703748087.71417
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -252703748087.71417
Rp2_im_im_a2 0 x2_im_a2 5.795854313103519e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.1059586861019216e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 98262545737.14738
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -98262545737.14738
Rp3_im_im_a2 0 x3_im_a2 1.1059586861019216e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 6.710404494664881e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 129275079504.81181
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -129275079504.81181
Rp4_im_im_a2 0 x4_im_a2 6.710404494664881e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 6.940312063940074e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 125884516303.93338
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -125884516303.93338
Rp5_im_im_a2 0 x5_im_a2 6.940312063940074e-10
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 1.3154749509076376e-06
Fd3_1 0 s3 V1 6.577374754538187e-05
Gr1_3_1 0 s3 x1_a1 0 -224414188.39303985
Gr2_re_3_1 0 s3 x2_re_a1 0 60435.03045524194
Gr2_im_3_1 0 s3 x2_im_a1 0 121542.48417798885
Gr3_re_3_1 0 s3 x3_re_a1 0 285850.8831050153
Gr3_im_3_1 0 s3 x3_im_a1 0 -76813.74503459307
Gr4_re_3_1 0 s3 x4_re_a1 0 -5297714.40328894
Gr4_im_3_1 0 s3 x4_im_a1 0 641909.4207457266
Gr5_re_3_1 0 s3 x5_re_a1 0 5821183.463585246
Gr5_im_3_1 0 s3 x5_im_a1 0 -587686.6234562735
Gd3_2 0 s3 p2 0 8.537439175719205e-07
Fd3_2 0 s3 V2 4.2687195878596024e-05
Gr1_3_2 0 s3 x1_a2 0 -145631054.40981364
Gr2_re_3_2 0 s3 x2_re_a2 0 31869.251624655924
Gr2_im_3_2 0 s3 x2_im_a2 0 77544.22417531701
Gr3_re_3_2 0 s3 x3_re_a2 0 192051.8994198627
Gr3_im_3_2 0 s3 x3_im_a2 0 -51254.98017963955
Gr4_re_3_2 0 s3 x4_re_a2 0 -3628371.3620938044
Gr4_im_3_2 0 s3 x4_im_a2 0 428663.4193366582
Gr5_re_3_2 0 s3 x5_re_a2 0 3961963.206843701
Gr5_im_3_2 0 s3 x5_im_a2 0 -390828.392243447
Gd3_3 0 s3 p3 0 0.04629468256899141
Fd3_3 0 s3 V3 2.314734128449571
Gr1_3_3 0 s3 x1_a3 0 -7901685985335.927
Gr2_re_3_3 0 s3 x2_re_a3 0 4080914904.6801853
Gr2_im_3_3 0 s3 x2_im_a3 0 4656651508.364783
Gr3_re_3_3 0 s3 x3_re_a3 0 8425479990.1238785
Gr3_im_3_3 0 s3 x3_im_a3 0 -2343778552.194883
Gr4_re_3_3 0 s3 x4_re_a3 0 -137085587402.09274
Gr4_im_3_3 0 s3 x4_im_a3 0 19553658360.272354
Gr5_re_3_3 0 s3 x5_re_a3 0 157204195396.93405
Gr5_im_3_3 0 s3 x5_im_a3 0 -18339071693.978764
Gd3_4 0 s3 p4 0 -4.35350916665122e-05
Fd3_4 0 s3 V4 -0.00217675458332561
Gr1_3_4 0 s3 x1_a4 0 7428149985.711013
Gr2_re_3_4 0 s3 x2_re_a4 0 -279423.6575839252
Gr2_im_3_4 0 s3 x2_im_a4 0 -4121588.1815870893
Gr3_re_3_4 0 s3 x3_re_a4 0 -7233315.608622356
Gr3_im_3_4 0 s3 x3_im_a4 0 2465774.6122595565
Gr4_re_3_4 0 s3 x4_re_a4 0 210500637.7229957
Gr4_im_3_4 0 s3 x4_im_a4 0 -25528094.08787495
Gr5_re_3_4 0 s3 x5_re_a4 0 -232169782.48951256
Gr5_im_3_4 0 s3 x5_im_a4 0 23803032.358982388
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 8.384168007745972e-14
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 5.795854313103519e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 252703748087.71417
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -252703748087.71417
Rp2_im_im_a3 0 x2_im_a3 5.795854313103519e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.1059586861019216e-09
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 98262545737.14738
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -98262545737.14738
Rp3_im_im_a3 0 x3_im_a3 1.1059586861019216e-09
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 6.710404494664881e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 129275079504.81181
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -129275079504.81181
Rp4_im_im_a3 0 x4_im_a3 6.710404494664881e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 6.940312063940074e-10
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 125884516303.93338
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -125884516303.93338
Rp5_im_im_a3 0 x5_im_a3 6.940312063940074e-10
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 1.537424383775998e-06
Fd4_1 0 s4 V1 7.68712191887999e-05
Gr1_4_1 0 s4 x1_a1 0 -262314569.73175803
Gr2_re_4_1 0 s4 x2_re_a1 0 88486.7559852725
Gr2_im_4_1 0 s4 x2_im_a1 0 145523.56473776206
Gr3_re_4_1 0 s4 x3_re_a1 0 319187.970451079
Gr3_im_4_1 0 s4 x3_im_a1 0 -86516.64015891399
Gr4_re_4_1 0 s4 x4_re_a1 0 -5741068.562068766
Gr4_im_4_1 0 s4 x4_im_a1 0 722353.2711434944
Gr5_re_4_1 0 s4 x5_re_a1 0 6368358.908144235
Gr5_im_4_1 0 s4 x5_im_a1 0 -665289.8435235658
Gd4_2 0 s4 p2 0 4.1433419695419353e-07
Fd4_2 0 s4 V2 2.0716709847709678e-05
Gr1_4_2 0 s4 x1_a2 0 -70622295.52455458
Gr2_re_4_2 0 s4 x2_re_a2 0 -11684.682075922805
Gr2_im_4_2 0 s4 x2_im_a2 0 32428.302113120353
Gr3_re_4_2 0 s4 x3_re_a2 0 115704.6425008074
Gr3_im_4_2 0 s4 x3_im_a2 0 -29841.644483681535
Gr4_re_4_2 0 s4 x4_re_a2 0 -2447700.7877169508
Gr4_im_4_2 0 s4 x4_im_a2 0 251076.85545357162
Gr5_re_4_2 0 s4 x5_re_a2 0 2586803.8337523043
Gr5_im_4_2 0 s4 x5_im_a2 0 -223122.92494994364
Gd4_3 0 s4 p3 0 -4.546302561193529e-05
Fd4_3 0 s4 V3 -0.0022731512805967647
Gr1_4_3 0 s4 x1_a3 0 7757215007.325445
Gr2_re_4_3 0 s4 x2_re_a3 0 -449938.8723804447
Gr2_im_4_3 0 s4 x2_im_a3 0 -4315613.878258814
Gr3_re_4_3 0 s4 x3_re_a3 0 -7584246.807137865
Gr3_im_4_3 0 s4 x3_im_a3 0 2562734.834581532
Gr4_re_4_3 0 s4 x4_re_a3 0 216199490.20471072
Gr4_im_4_3 0 s4 x4_im_a3 0 -26344847.438481443
Gr5_re_4_3 0 s4 x5_re_a3 0 -238706278.04616103
Gr5_im_4_3 0 s4 x5_im_a3 0 24570091.814464357
Gd4_4 0 s4 p4 0 0.046032509345834
Fd4_4 0 s4 V4 2.3016254672917
Gr1_4_4 0 s4 x1_a4 0 -7856949296904.437
Gr2_re_4_4 0 s4 x2_re_a4 0 4078839959.743234
Gr2_im_4_4 0 s4 x2_im_a4 0 4633298079.676616
Gr3_re_4_4 0 s4 x3_re_a4 0 8380246733.093918
Gr3_im_4_4 0 s4 x3_im_a4 0 -2329380355.5029655
Gr4_re_4_4 0 s4 x4_re_a4 0 -135841197782.05702
Gr4_im_4_4 0 s4 x4_im_a4 0 19385503834.39923
Gr5_re_4_4 0 s4 x5_re_a4 0 155831801395.89557
Gr5_im_4_4 0 s4 x5_im_a4 0 -18181892064.148098
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 8.384168007745972e-14
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 5.795854313103519e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 252703748087.71417
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -252703748087.71417
Rp2_im_im_a4 0 x2_im_a4 5.795854313103519e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.1059586861019216e-09
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 98262545737.14738
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -98262545737.14738
Rp3_im_im_a4 0 x3_im_a4 1.1059586861019216e-09
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 6.710404494664881e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 129275079504.81181
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -129275079504.81181
Rp4_im_im_a4 0 x4_im_a4 6.710404494664881e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 6.940312063940074e-10
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 125884516303.93338
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -125884516303.93338
Rp5_im_im_a4 0 x5_im_a4 6.940312063940074e-10
.ENDS s_equivalent
